US04061663
2-Methyl-2-propyl-1,3-bis-O-sulfamyl-1,3-propanediol is prepared in the same manner as 1,2-bis-O-sulfamyl-1,2-ethanediol in Example 1 except that 2-methyl-2-propyl-1,3-propanediol (50.8 g., 0.385 mol.) is employed as the alkanediol.

reactant | 1,2-bis-O-sulfamyl-1,2-ethanediol | S(N)(=O)(=O)OCCOS(N)(=O)=O | C2H8N2O6S2
reactant | 2-methyl-2-propyl-1,3-propanediol | 0.385 mol, 50.8 g | CC(CO)(CO)CCC | C7H16O2
product | 2-Methyl-2-propyl-1,3-bis-O-sulfamyl-1,3-propanediol | CC(COS(N)(=O)=O)(COS(N)(=O)=O)CCC | C7H18N2O6S2
